US05976759
To a solution of 10.8 g of poly(p-hydroxystyrene) obtained according to (2) in 72 ml of 1,4-dioxane were added 1.2 g of 2,3-dihydropyran and 0.05 g of pyridine salt of p-toluenesulfonic acid to carry out reaction at 25-30° C. for 15 hours. The reaction solution was poured into 1,000 ml of water and crystallized. Precipitated crystals were filtered out, washed with water and dried in vacuo to give 10.0 g of poly(p-hydroxystyrene/p-tetrahydropyranyloxystyrene) as white powdery crystal. P-hydroxystyrene unit/p-tetrahydropyranyloxystyrene unit molar ratio in the polymer≈95:5 (1H NMR). Mw≈13,000 (GPC with polystyrene calibration).

reactant | 2,3-dihydropyran | 1.2 g | O1CCCC=C1 | C5H8O
reactant | pyridine | 0.05 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 1,000 ml | O | H2O
solvent | 1,4-dioxane | 72 ml | O1CCOCC1 | C4H8O2
product | p-hydroxystyrene p-tetrahydropyranyloxystyrene | OC1=CC=C(C=C)C=C1.O1C(CCCC1)OC1=CC=C(C=C)C=C1 | InChI=1S/C13H16O2.C8H8O/c1-2-11-6-8-12(9-7-11)15-13-5-3-4-10-14-13;1-2-7-3-5-8(9)6-4-7/h2,6-9,13H,1,3-5,10H2;2-6,9H,1H2
